### PR TITLE
refactor(LocallyNameless): simplify proof of FullBeta.step_lc_r

### PR DESCRIPTION
**Pull request by lengyijun**
Replace manual induction + grind with Xi.step_lc_r + grind

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 1]
```diff
@@ -78,9 +78,8 @@ variable [HasFresh Var] [DecidableEq Var]
 /-- The right side of a reduction is locally closed. -/
 @[scoped grind →]
 lemma step_lc_r (step : M ⭢βᶠ M') : LC M' := by
-  induction step
-  case abs => constructor; assumption
-  all_goals grind
+  refine Xi.step_lc_r ?_ step
+  grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: When there's just one or maybe two calls to `grind`, you can inline like
```suggestion
  Xi.step_lc_r (by grind) step
```

**Review by chenson2018 — APPROVED** [review]
I was able to apply the suggestion myself after accepting the GitHub organization invite. Thanks!
